US07820704B2
2-Bromo-1-[4-(cis-4-methyl-cyclohexyloxy)-phenyl]-ethanone (650 mg) was prepared following procedure A using 1-[4-(4-Methyl-cyclohexyloxy)-phenyl]-ethanone (464 mg, 2.0 mmol) and pyrrolidone hydrotribromide (701 mg, 2.2 mmol).

reactant | 1-[4-(4-Methyl-cyclohexyloxy)-phenyl]-ethanone | 2.0 mmol, 464 mg | CC1CCC(CC1)OC1=CC=C(C=C1)C(C)=O | C15H20O2
reactant | pyrrolidone hydrotribromide | 2.2 mmol, 701 mg | C1CC(=O)NC1.Br[Br-]Br
product | 2-Bromo-1-[4-(cis-4-methyl-cyclohexyloxy)-phenyl]-ethanone | 650 mg | BrCC(=O)C1=CC=C(C=C1)O[C@@H]1CC[C@@H](CC1)C | C15H19BrO2
